US08703805B2
Preparation of 1-{5-(2-chlorophenyl)-1-[6-(3-methanesulfonyl-phenyl)-pyridin-3-yl]-1H-pyrazol-3-yl}-ethanone
To a stirred solution of N,N′-dimethylethylenediamine (56 μL, 0.52 mmol) in toluene (3 mL, anhyd) at 0° C. was added dropwise a 2.0M solution of trimethylaluminum in hexanes (0.75 mL, 1.5 mmol). After addition was complete the flask was removed from the ice-water bath and allowed to warm to ambient temperature. After 50 min the reaction mixture was charged slowly with a solution of methyl 5-(2-chlorophenyl)-1-{6-[3-(methylsulfonyl)phenyl]pyridin-3-yl}-1H-pyrazole-3-carboxylate (0.22 g, 0.47 mmol) in toluene (3 mL, anhyd) and then heated at reflux. After 90 min the reaction mixture was allowed to cool to ambient temperature and quenched by addition of 1N HCl. The resulting mixture was extracted with EtOAc (2×50 mL). The combined extracts were washed with brine, dried (Na2SO4), concentrated and purified by chromatography (silica, EtOAc/Hex, 30:70 to 60:40) to yield the title compound (47 mg, 22%) as a white solid. 1H-NMR (DCM-d2): δ 8.65 (m, 1H), 8.57 (m, 1H), 8.30 (m, 1H), 7.99 (m, 1H), 7.79-7.87 (m, 2H), 7.71 (m, 1H), 7.36-7.47 (m, 4H), 7.02 (s, 1H), 3.09 (s, 3H), 2.68 (s, 3H); MS(ES): 452 [M+H]+.

reactant | N,N′-dimethylethylenediamine | 0.52 mmol, 56 μL | CNCCNC | C4H12N2
reactant | trimethylaluminum | C[Al](C)C
reactant | methyl 5-(2-chlorophenyl)-1-{6-[3-(methylsulfonyl)phenyl]pyridin-3-yl}-1H-pyrazole-3-carboxylate | 0.47 mmol, 0.22 g | ClC1=C(C=CC=C1)C1=CC(=NN1C=1C=NC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)OC | C23H18ClN3O4S
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-{5-(2-chlorophenyl)-1-[6-(3-methanesulfonyl-phenyl)-pyridin-3-yl]-1H-pyrazol-3-yl}-ethanone | 47 mg, 22% | ClC1=C(C=CC=C1)C1=CC(=NN1C=1C=NC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(C)=O | C23H18ClN3O3S
